US09062048B2
Step I: N-(azetidin-3-yl)-2-(7-(trifluoromethyl)phthalazin-1-ylamino)acetamide
Into a 25 mL round-bottom flask, was placed a solution of tert-butyl 3-(2-(7-(trifluoromethyl)phthalazin-1-ylamino)acetamido)azetidine-1-carboxylate (prepared as described in the previous step, 160 mg, 0.38 mmol, 1.00 equiv) in dichloromethane (1 mL). This was followed by the addition of trifluoroacetic acid (0.8 mL). The reaction mixture was stirred for 2 h at 0° C. The resulting mixture was concentrated under vacuum. The title compound was obtained as a yellow oil.

reactant | tert-butyl 3-(2-(7-(trifluoromethyl)phthalazin-1-ylamino)acetamido)azetidine-1-carboxylate | FC(C1=CC=C2C=NN=C(C2=C1)NCC(=O)NC1CN(C1)C(=O)OC(C)(C)C)(F)F | C19H22F3N5O3
reactant | trifluoroacetic acid | 0.8 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-(azetidin-3-yl)-2-(7-(trifluoromethyl)phthalazin-1-ylamino)acetamide | N1CC(C1)NC(CNC1=NN=CC2=CC=C(C=C12)C(F)(F)F)=O | C14H14F3N5O
